### PR TITLE
[Merged by Bors] - chore: deduce `Nat.multiplicity` lemmas from the `Nat.factorization` ones

### PR DESCRIPTION
**Pull request by Kevew**
Port lemmas from `Data/Nat/Multiplicity` to into a new file called `Data/Nat/Factorization/Multiplicity`, re-written in terms of `factorization`.

---

- [x] depends on: #24576
- [x] depends on: #25002
- [x] depends on: #26142

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 1]
```diff
@@ -0,0 +1,349 @@
...
+Legendre, p-adic
+-/
+
+open Finset List Finsupp
+
+namespace Nat
+
+/-- The Factorization of prime `p` in `p` is `1` -/
+@[simp]
+theorem Prime.factorization_self {p : ℕ} (hp : Prime p) : p.factorization p = 1 := by simp [hp]
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:55]: Rather than duplicating lemmas, it's best to reuse existing lemmas - in your case, one way to to so would be to add an import to your new file.

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 2]
```diff
@@ -0,0 +1,349 @@
...
+  (hm2: m.Prime) (hn : 0 < n) (hb : log m n < b) :
+    n.factorization m = #{i ∈ Ico 1 b | m ^ i ∣ n} :=
+  have fin := Nat.finiteMultiplicity_iff.2 ⟨hm, hn⟩
+  calc
+    n.factorization m = #(Ico 1 <| multiplicity m n + 1) := by {
+      simp only [card_Ico, add_tsub_cancel_right]
+      rw [← multiplicity_eq_factorization]
+      · exact hm2
+      exact not_eq_zero_of_lt hn
+    }
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:65]: One stylistic point: typically, we would write
```
have : foo := by 
  tac1
  tac2
```
rather than 
```
have : foo := by  {
  tac1
  tac2
}
```
and so on.

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean (hunk 1 above)
Comment (Kevew) [reply Mathlib/Data/Nat/Factorization/Multiplicity.lean]: Thanks. I just thought importing the entire basic file just to use one lemma was bad pratice.

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 3]
```diff
@@ -0,0 +1,349 @@
...
+  ∀ {n b : ℕ}, log p n < b → (n !).factorization p = (∑ i ∈ Ico 1 b, n / p ^ i : ℕ)
+  | 0, b, _ => by simp only [factorial_zero, factorization_one, coe_zero, Pi.zero_apply,
+    Nat.zero_div, sum_const_zero]
+  | n + 1, b, hb =>
+    calc
+      ((n + 1)!).factorization p = ( (n + 1) * (n !)).factorization p := by
+        rw [← factorial_succ]
+      _ = (n + 1).factorization p + (n !).factorization p := by
+        have p1: n + 1 ≠ 0 := by exact Ne.symm (zero_ne_add_one n)
+        apply factorization_mul₀ p1 (factorial_ne_zero n)
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:118]: Note that you should be able to avoid using new lemmas such as `factorization_mul₀ ` by using already existing API for `factorization` and `Finsupp`. 
```suggestion
_ = (n + 1).factorization p + (n !).factorization p := by
        rw [factorization_mul (zero_ne_add_one n).symm (factorial_ne_zero n), coe_add, Pi.add_apply]
```
One useful trick for finding such lemmas when you're writing proofs is to use the `simp?` tactic.

Comment (Kevew) [reply Mathlib/Data/Nat/Factorization/Multiplicity.lean:118]: Is it always preferable to use old lemmas? 

I feel as though: `exact factorization_mul₀ ((zero_ne_add_one n).symm) (factorial_ne_zero n)`
is more readable then 'rw [factorization_mul (zero_ne_add_one n).symm (factorial_ne_zero n), coe_add, Pi.add_apply]'.

Like, factorization_mul₀ was a lemma I made so that I didn't need to use `coe_add, Pi.add_apply` each time I apply the old one.

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 4]
```diff
@@ -0,0 +1,309 @@
...
+the sum of base `p` digits of `n`. -/
+theorem sub_one_mul_factorization_factorial {n p : ℕ} (hp : p.Prime) :
+    (p - 1) * (n !).factorization p = n - (p.digits n).sum := by
+  simp only [factorization_factorial hp <| lt_succ_of_lt <| lt.base (log p n),
+    ← Finset.sum_Ico_add' _ 0 _ 1, Ico_zero_eq_range, ←
+    sub_one_mul_sum_log_div_pow_eq_sub_sum_digits]
+
+/-- Modified version of `factorization_prod` that accounts for inputs. -/
+theorem factorization_prod₀ {α : Type*} {p : ℕ}
+{S : Finset α} {g : α → ℕ} (hS : ∀ x ∈ S, g x ≠ 0) :
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:126]: Here, it would be better to follow the [style guidelines](https://leanprover-community.github.io/contribute/style.html) for indentation:)

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 5]
```diff
@@ -0,0 +1,309 @@
...
+(hb: b ≠ 0) (hc: c ≠ 0):
+    b.factorization a ≤ c.factorization a := by
+  rcases h with ⟨k, hk⟩
+  rw [hk]
+  have h2 : k ≠ 0 := by
+    intro k1
+    rw [k1, mul_zero] at hk
+    tauto
+  rw [factorization_mul hb h2, coe_add, Pi.add_apply]
+  simp only [le_add_iff_nonneg_right, _root_.zero_le]
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:254]:
```suggestion
  rcases h with ⟨k, rfl⟩
  simp [factorization_mul hb (Nat.ne_zero_of_mul_ne_zero_right hc)]
```

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 6]
```diff
@@ -0,0 +1,309 @@
...
+Copyright (c) 2025 Qi Wen Wei. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Qi Wen Wei
+-/
+import Mathlib.Data.Nat.Factorization.Basic
+import Mathlib.Data.Nat.Log
+import Mathlib.Data.Nat.Digits
+import Mathlib.Algebra.GeomSum
+import Mathlib.Data.Nat.Prime.Defs
+import Mathlib.RingTheory.Multiplicity
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:11]:
```suggestion
import Mathlib.Algebra.GeomSum
import Mathlib.Data.Nat.Digits
import Mathlib.Data.Nat.Factorization.Basic
```
You can find this smaller set of imports by running `#min_imports` at the bottom of your file.

Comment (Kevew) [reply Mathlib/Data/Nat/Factorization/Multiplicity.lean:11]: Oh, that's a neat trick.

**Comment by Paul-Lez** [comment]
Hi - sorry for the delay! I should be able to take another look today/tomorrow:)

**Comment by Kevew** [comment]
> Hi - sorry for the delay! I should be able to take another look today/tomorrow:)

No worries. I really appreciate you doing this!

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 7]
```diff
@@ -0,0 +1,302 @@
...
+      have k_nonzero : k ≠ 0 := by
+        rw [hk] at hn
+        exact Nat.ne_zero_of_mul_ne_zero_right hn
+      have k_gt : k > 0 := by exact zero_lt_of_ne_zero k_nonzero
+      calc
+      (p + 1) ^ i ≤ (p + 1) ^ i * k := by exact Nat.le_mul_of_pos_right ((p + 1) ^ i) k_gt
+      _           = n               := by exact hk.symm
+  intro h
+  have p_gt: p > 1 := by exact Prime.one_lt pp
+  exact lt_of_pow_dvd_right hn p_gt h1
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:70]:
```suggestion
theorem Ico_pow_dvd_eq_Ico_of_lt {n p b : ℕ} (pp : p.Prime) (hn : n ≠ 0) (hb : n < p ^ b) :
    {i ∈ Ico 1 n | p ^ i ∣ n} = {i ∈ Ico 1 b | p ^ i ∣ n} := by
  ext i
  simp only [Finset.mem_filter, mem_Ico, and_congr_left_iff, and_congr_right_iff]
  refine fun h1 h2 ↦ ⟨fun h ↦ ?_, fun h ↦ lt_of_pow_dvd_right hn (Prime.one_lt pp) h1⟩
  rcases p with - | p
  · rw [zero_pow (not_eq_zero_of_lt h2), zero_dvd_iff] at h1
    exact  (hn h1).elim
  · refine LE.le.trans_lt (le_log_of_pow_le pp.one_lt ?_) ((lt_pow_iff_log_lt pp.one_lt hn).mp hb)
    obtain ⟨k, rfl⟩ := h1
    exact Nat.le_mul_of_pos_right ((p + 1) ^ i)
      (zero_lt_of_ne_zero <| Nat.ne_zero_of_mul_ne_zero_right hn)
```

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 8]
```diff
@@ -0,0 +1,302 @@
...
+divides `n`. Note `m` is prime. This set is expressed by filtering `Ico 1 b` where `b` is any bound
+greater than `log m n`. -/
+theorem factorization_eq_card_pow_dvd_of_lt {m n b : ℕ}
+    (hm2: m.Prime) (hn : 0 < n) (hb : log m n < b) :
+    n.factorization m = #{i ∈ Ico 1 b | m ^ i ∣ n} :=  calc
+    n.factorization m = #{i ∈ Ico 1 n | m ^ i ∣ n} := by
+      exact factorization_eq_card_pow_dvd n hm2
+    _ = #{i ∈ Ico 1 b | m ^ i ∣ n} := by
+      rw [Ico_pow_dvd_eq_Ico_of_lt hm2 (not_eq_zero_of_lt hn)]
+      exact lt_pow_of_log_lt (Prime.one_lt hm2) hb
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:82]:
```suggestion
  rw [factorization_eq_card_pow_dvd n hm2, Ico_pow_dvd_eq_Ico_of_lt hm2 (not_eq_zero_of_lt hn)]
  exact lt_pow_of_log_lt (Prime.one_lt hm2) hb
```

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 9]
```diff
@@ -0,0 +1,302 @@
...
+        exact hb
+      _ = (∑ i ∈ Ico 1 b, n / p ^ i : ℕ) + #{i ∈ Ico 1 b | p ^ i ∣ n + 1} := by
+        exact
+          Nat.add_comm (#(Finset.filter (fun i ↦ p ^ i ∣ n + 1) (Ico 1 b)))
+            (∑ i ∈ Ico 1 b, n / p ^ i)
+      _ = (∑ i ∈ Ico 1 b, (n / p ^ i + if p ^ i ∣ n + 1 then 1 else 0) : ℕ) := by
+        rw [sum_add_distrib, sum_boole]
+        simp
+      _ = (∑ i ∈ Ico 1 b, (n + 1) / p ^ i : ℕ) :=
+        Finset.sum_congr rfl fun _ _ => (succ_div _ _).symm
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:114]:
```suggestion
theorem factorization_factorial {p : ℕ} (hp : p.Prime) :
    ∀ {n b : ℕ}, log p n < b → (n !).factorization p = (∑ i ∈ Ico 1 b, n / p ^ i : ℕ)
  | 0, b, _ => by simp
  | n + 1, b, hb =>
    calc
      ((n + 1)!).factorization p = (n + 1).factorization p + (n !).factorization p := by
        rw [factorial_succ, factorization_mul (zero_ne_add_one n).symm (factorial_ne_zero n),
          coe_add, Pi.add_apply]
      _ = #{i ∈ Ico 1 b | p ^ i ∣ n + 1} + (∑ i ∈ Ico 1 b, n / p ^ i : ℕ) := by
        rw [factorization_factorial hp ((log_mono_right <| le_succ _).trans_lt hb), add_left_inj]
        apply factorization_eq_card_pow_dvd_of_lt hp (zero_lt_succ n) hb
      _ = (∑ i ∈ Ico 1 b, (n / p ^ i + if p ^ i ∣ n + 1 then 1 else 0) : ℕ) := by
        simp [Nat.add_comm, sum_add_distrib, sum_boole]
      _ = (∑ i ∈ Ico 1 b, (n + 1) / p ^ i : ℕ) :=
        Finset.sum_congr rfl fun _ _ => (succ_div _ _).symm
```

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 10]
```diff
@@ -0,0 +1,302 @@
...
+  simp only [factorization_factorial hp <| lt_succ_of_lt <| lt.base (log p n),
+    ← Finset.sum_Ico_add' _ 0 _ 1, Ico_zero_eq_range, ←
+    sub_one_mul_sum_log_div_pow_eq_sub_sum_digits]
+
+/-- Modified version of `factorization_prod` that accounts for inputs. -/
+theorem factorization_prod₀ {α : Type*} {p : ℕ}
+    {S : Finset α} {g : α → ℕ} (hS : ∀ x ∈ S, g x ≠ 0) :
+    (S.prod g).factorization p = S.sum fun x => (g x).factorization p := by
+  rw [factorization_prod (fun x a ↦ hS x a)]
+  exact finset_sum_apply S (fun i ↦ (g i).factorization) p
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:129]:
```suggestion
  rw [factorization_prod hS, finset_sum_apply]
```

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 11]
```diff
@@ -0,0 +1,302 @@
...
+/-- For a prime number `p`, taking `(p - 1)` times the factorization of `p` in `n!` equals `n` minus
+the sum of base `p` digits of `n`. -/
+theorem sub_one_mul_factorization_factorial {n p : ℕ} (hp : p.Prime) :
+    (p - 1) * (n !).factorization p = n - (p.digits n).sum := by
+  simp only [factorization_factorial hp <| lt_succ_of_lt <| lt.base (log p n),
+    ← Finset.sum_Ico_add' _ 0 _ 1, Ico_zero_eq_range, ←
+    sub_one_mul_sum_log_div_pow_eq_sub_sum_digits]
+
+/-- Modified version of `factorization_prod` that accounts for inputs. -/
+theorem factorization_prod₀ {α : Type*} {p : ℕ}
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:125]: I'd suggest `factorization_prod_apply` as a name for this lemma. This and `factorization_pow_self` would be more at home in `Mathlib.Data.Nat.Factorization.Basic`.

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 12]
```diff
@@ -0,0 +1,302 @@
...
+## Tags
+
+Legendre, p-adic
+-/
+
+open Finset List Finsupp
+
+namespace Nat
+
+theorem Ico_pow_dvd_eq_Ico_of_lt {n p b : ℕ} (pp : p.Prime) (hn : n ≠ 0) (hb : n < p ^ b) :
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:48]: This theorem and the one below would be natural to put in `Data/Nat/Factorization/Basic`, e.g. below `factorization_eq_card_pow_dvd`.

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 13]
```diff
@@ -0,0 +1,302 @@
...
+theorem factorization_factorial_mul {n p : ℕ} (hp : p.Prime) :
+    ((p * n)!).factorization p = (n !).factorization p + n := by
+  induction' n with n ih
+  · simp
+  · simp only [hp, factorization_factorial_mul_succ, ih, factorial_succ,
+    cast_add, cast_one, ← add_assoc]
+    congr 1
+    rw [factorization_mul (Ne.symm (zero_ne_add_one n)) (factorial_ne_zero n),
+    coe_add, Pi.add_apply]
+    ring
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:181]:
```suggestion
  induction' n with n ih
  · simp
  · simp only [factorization_factorial_mul_succ hp, ih, factorial_succ,
      cast_add, cast_one, ←add_assoc, factorization_mul (zero_ne_add_one n).symm
      (factorial_ne_zero n), coe_add, Pi.add_apply]
    ring
```

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 14]
```diff
@@ -0,0 +1,302 @@
...
+
+
+theorem factorization_factorial_le_div_pred {p : ℕ} (hp : p.Prime) (n : ℕ) :
+    (n !).factorization p ≤ (n / (p - 1) : ℕ) := by
+  have h1 : log p n < (log p n).succ := by exact Nat.lt_add_one (log p n)
+  rw [factorization_factorial hp (h1)]
+  exact Nat.geom_sum_Ico_le hp.two_le _ _
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:188]:
```suggestion
  rw [factorization_factorial hp (Nat.lt_add_one (log p n))]
  exact Nat.geom_sum_Ico_le hp.two_le _ _
```

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 15]
```diff
@@ -0,0 +1,302 @@
...
+/-- The factorization of `p` in `choose n k` is the number of carries when `k` and `n - k`
+  are added in base `p`. The set is expressed by filtering `Ico 1 b` where `b`
+  is any bound greater than `log p n`. -/
+theorem factorization_choose {p n k b : ℕ} (hp : p.Prime) (hkn : k ≤ n) (hnb : log p n < b) :
+    (choose n k).factorization p = #{i ∈ Ico 1 b | p ^ i ≤ k % p ^ i + (n - k) % p ^ i} := by
+  have := Nat.sub_add_cancel hkn
+  convert @factorization_choose' p (n - k) k b hp _
+  · exact id (Eq.symm this)
+  · rw [this]
+    exact hnb
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:238]:
```suggestion
  rw [←factorization_choose' hp ((Nat.sub_add_cancel hkn).symm ▸ hnb), Nat.sub_add_cancel hkn]
```

**Review by Paul-Lez — COMMENTED** [review]
Here's a couple of comments - I'll try to come back to this PR later this week:) 
1) If possible, it would be worth trying to move some of the results from the file you added to `Data.Nat.Factorization.Basic`, just so that they are usable with less imports
2) There seem to be some duplicate results, e.g `multiplicity_choose_aux` appears in both the new file and in `Data.Nat.Multiplicity`. I would suggest removing the versions in the latter, and making `Data.Nat.Multiplicity` import `Data.Nat.Factorization.Multiplicity`. 
3) Arguably, we probably want to derive the results in `Data.Nat.Multiplicity` using the results you've added in this PR - would you mind adding a TODO note? (this can probably be left to a future PR)

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean (hunk 12 above)
Comment (Kevew) [reply Mathlib/Data/Nat/Factorization/Multiplicity.lean:48]: If I move it to Basic, it would require me to import `import Mathlib.Data.Nat.Digits`. Is that fine?

Comment (Paul-Lez) [reply Mathlib/Data/Nat/Factorization/Multiplicity.lean:48]: I see - here's one possible solution: 
```suggestion
theorem Ico_pow_dvd_eq_Ico_of_lt {n p b : ℕ} (pp : p.Prime) (hn : n ≠ 0) (hb : n < p ^ b) :
    {i ∈ Ico 1 n | p ^ i ∣ n} = {i ∈ Ico 1 b | p ^ i ∣ n} := by
  ext i
  simp only [Finset.mem_filter, mem_Ico, and_congr_left_iff, and_congr_right_iff]
  refine fun h1 h2 ↦ ⟨fun h ↦ ?_, fun h ↦ lt_of_pow_dvd_right hn (Prime.one_lt pp) h1⟩
  rcases p with - | p
  · rw [zero_pow (not_eq_zero_of_lt h2), zero_dvd_iff] at h1
    exact (hn h1).elim
  · rw [←Nat.pow_lt_pow_iff_right (Prime.one_lt pp)]
    apply lt_of_le_of_lt (le_of_dvd (Nat.zero_lt_of_ne_zero hn) h1) hb

/-- The factorization of `m` in `n` is the number of positive natural numbers `i` such that `m ^ i`
divides `n`. Note `m` is prime. This set is expressed by filtering `Ico 1 b` where `b` is any bound
greater than `log m n`. -/
theorem factorization_eq_card_pow_dvd_of_lt {m n b : ℕ}
    (hm2: m.Prime) (hn : 0 < n) (hb : n < m ^ b) :
    n.factorization m = #{i ∈ Ico 1 b | m ^ i ∣ n} := by
  rwa [factorization_eq_card_pow_dvd n hm2, Ico_pow_dvd_eq_Ico_of_lt hm2 (not_eq_zero_of_lt hn)]
  ```
 This reworks the proof of `Ico_pow_dvd_eq_Ico_of_lt` and modifies an assumption in `factorization_eq_card_pow_dvd_of_lt`  so that they no longer use anything in `Mathlib.Data.Nat.Log`  (this was the reason why you needed `Mathlib.Data.Nat.Digits`. 
 
 Since this PR is quite large, it may be worth making a separate PR (mentioning this PR in the description) with those two results since I think they're close to being mergeable.

File: Mathlib/Data/Nat/Multiplicity.lean [hunk 16]
```diff
@@ -10,6 +10,7 @@ import Mathlib.Data.Nat.Log
 import Mathlib.Data.Nat.Prime.Defs
 import Mathlib.Data.Nat.Digits
 import Mathlib.RingTheory.Multiplicity
+import Mathlib.Data.Nat.Factorization.Multiplicity
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Multiplicity.lean:13]: I see a "large-imports" tag has been added to this PR because of this import. I think it might be worth opening a discussion in [the PR review channel on Zulip](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews) so you can get feedback from maintainers on whether this is the right course of action!

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 17]
```diff
@@ -0,0 +1,263 @@
...
+# Natural number factorization
+
+This file contains lemmas about the factorization function (the maximum prime power dividing a
+number) when applied to naturals, in particular calculating it for factorials and binomial
+coefficients.
+
+This is a port of the lemmas from `Data/Nat/Multiplicity` to here,
+re-written in terms of `factorization`
+
+
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:20]:
```suggestion
```

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 18]
```diff
@@ -0,0 +1,263 @@
...
+namespace Nat
+
+theorem Ico_pow_dvd_eq_Ico_of_lt {n p b : ℕ} (pp : p.Prime) (hn : n ≠ 0) (hb : n < p ^ b) :
+    {i ∈ Ico 1 n | p ^ i ∣ n} = {i ∈ Ico 1 b | p ^ i ∣ n} := by
+  ext i
+  simp only [Finset.mem_filter, mem_Ico, and_congr_left_iff, and_congr_right_iff]
+  refine fun h1 h2 ↦ ⟨fun h ↦ ?_, fun h ↦ lt_of_pow_dvd_right hn (Prime.one_lt pp) h1⟩
+  rcases p with - | p
+  · rw [zero_pow (not_eq_zero_of_lt h2), zero_dvd_iff] at h1
+    exact  (hn h1).elim
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:55]:
```suggestion
    exact (hn h1).elim
```

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 19]
```diff
@@ -0,0 +1,263 @@
...
+theorem factorization_le_factorization_of_dvd_right {a b c : ℕ} (h : b ∣ c)
+    (hb: b ≠ 0) (hc: c ≠ 0): b.factorization a ≤ c.factorization a := by
+  rcases h with ⟨k, rfl⟩
+  simp [factorization_mul hb (Nat.ne_zero_of_mul_ne_zero_right hc)]
+
+/-- A lower bound on the factorization of `p` in `choose n k`.
+ -/
+theorem factorization_le_factorization_choose_add {p : ℕ} :
+    ∀ n k : ℕ, (k ≤ n) ∧ (k ≠ 0) →
+    n.factorization p ≤ (choose n k).factorization p + k.factorization p
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:214]:
```suggestion
    ∀ {n k : ℕ}, k ≤ n → k ≠ 0 →
      n.factorization p ≤ (choose n k).factorization p + k.factorization p
```

File: Mathlib/Data/Nat/Factorization/Multiplicity.lean [hunk 20]
```diff
@@ -0,0 +1,263 @@
...
+  | n, 0 => by
+    intro h
+    tauto
+  | 0, x + 1 => by simp
+  | n + 1, k + 1 => by
+    intro h
```
Comment (Paul-Lez) [inline Mathlib/Data/Nat/Factorization/Multiplicity.lean:220]: You can intro more variables still
```suggestion
  | n, 0, _, _ => by tauto
  | 0, x + 1, _, _ => by simp
  | n + 1, k + 1, hkn, hk => by
```

**Comment by grunweg** [comment]
@Paul-Lez I see you have been involved with reviewing this PR already. Is there anything missing from your side/would you like to give this a final look?

**Comment by Paul-Lez** [comment]
@Kevew I've had a go at shortening a few proofs and moving stuff around - let me know what you think of the changes:)

**Comment by Kevew** [comment]
> @Kevew I've had a go at shortening a few proofs and moving stuff around - let me know what you think of the changes:)

Yea, it looks great! I personally like having lots of haves for readability but I suppose it's better for mathlib4.

Oh ye, for the large-import tag, we could just remove the import in Mathlib/Data/Nat/Multiplicity and readd multiplicity_choose_aux for now and not deal with it. I think it's fine (?) to just leave a comment for someone else to pick up for a pr later. 

Other than that, I don't have any further suggestions for changes

**Comment by Paul-Lez** [comment]
Re the large import tag, I think it's reasonable to have that here (we do want to avoid duplicating results in Mathlib!).
@YaelDillies and I are planning to do a refactor in the area at some point in order to make more things depend on `Nat.factorization` (in view of unifying the way we talk about multiplicity in prime factorizations for `Nat`)

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by Paul-Lez** [comment]
I've had a go at minimizing some imports - let's see if that fixes the "large imports" tag (once the I get the PR to build:))

**Comment by Paul-Lez** [comment]
@Kevew Sorry for hijacking your PR! I've opened #24330 to try and get rid of this issue with large imports.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by YaelDillies** [comment]
I've opened #24576 as another attempt at reducing the large imports.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by Ruben-VandeVelde** [comment]
The diff at c6c6685ad18a8a823832765adc4c012fc7112261 was
```diff
--- /tmp/before.txt	2025-08-08 09:39:53.732002170 +0200
+++ /tmp/after.txt	2025-08-08 09:38:27.456000645 +0200
@@ -6,6 +6,7 @@ Batteries.CodeAction -- to enable the ho
 Batteries.CodeAction.Attr
 Batteries.Control.Nondet.Basic
 Batteries.Data.List.Basic
+Batteries.Data.List.Count
 Batteries.Data.List.Lemmas
 Batteries.Data.List.Pairwise
 Batteries.Data.List.Perm
@@ -131,10 +132,13 @@ Lean.Util.FoldConsts
 Lean.Util.Heartbeats
 Lean.Widget.InteractiveGoal
 LeanSearchClient
+Mathlib.Algebra.BigOperators.Finsupp.Basic
 Mathlib.Algebra.BigOperators.Group.Finset.Basic
 Mathlib.Algebra.BigOperators.Group.Finset.Defs
+Mathlib.Algebra.BigOperators.Group.Finset.Lemmas
 Mathlib.Algebra.BigOperators.Group.Finset.Pi
 Mathlib.Algebra.BigOperators.Group.Finset.Piecewise
+Mathlib.Algebra.BigOperators.Group.Finset.Preimage
 Mathlib.Algebra.BigOperators.Group.Finset.Sigma
 Mathlib.Algebra.BigOperators.Group.List.Basic
 Mathlib.Algebra.BigOperators.Group.List.Defs
@@ -143,6 +147,7 @@ Mathlib.Algebra.BigOperators.Group.Multi
 Mathlib.Algebra.BigOperators.Group.Multiset.Defs
 Mathlib.Algebra.BigOperators.GroupWithZero.Finset
 Mathlib.Algebra.BigOperators.Intervals
+Mathlib.Algebra.BigOperators.Pi
 Mathlib.Algebra.BigOperators.Ring.Finset
 Mathlib.Algebra.BigOperators.Ring.List
 Mathlib.Algebra.BigOperators.Ring.Multiset
@@ -153,9 +158,15 @@ Mathlib.Algebra.Divisibility.Units
 Mathlib.Algebra.Field.Basic
 Mathlib.Algebra.Field.Defs
 Mathlib.Algebra.Field.Rat
+Mathlib.Algebra.Group.Action.Defs
+Mathlib.Algebra.Group.Action.Faithful
+Mathlib.Algebra.Group.Action.Opposite
+Mathlib.Algebra.Group.Action.Pi
+Mathlib.Algebra.Group.Action.Units
 Mathlib.Algebra.Group.Basic
 Mathlib.Algebra.Group.Commute.Basic
 Mathlib.Algebra.Group.Commute.Defs
+Mathlib.Algebra.Group.Commute.Hom
 Mathlib.Algebra.Group.Commute.Units
 Mathlib.Algebra.Group.Defs
 Mathlib.Algebra.Group.Embedding
@@ -163,9 +174,12 @@ Mathlib.Algebra.Group.Equiv.Basic
 Mathlib.Algebra.Group.Equiv.Defs
 Mathlib.Algebra.Group.Equiv.Opposite
 Mathlib.Algebra.Group.Even
+Mathlib.Algebra.Group.Finsupp
 Mathlib.Algebra.Group.Hom.Basic
 Mathlib.Algebra.Group.Hom.Defs
+Mathlib.Algebra.Group.Hom.End
 Mathlib.Algebra.Group.Hom.Instances
+Mathlib.Algebra.Group.Indicator
 Mathlib.Algebra.Group.InjSurj
 Mathlib.Algebra.Group.Int.Defs
 Mathlib.Algebra.Group.Int.Even
@@ -180,10 +194,17 @@ Mathlib.Algebra.Group.Nat.Hom
 Mathlib.Algebra.Group.Nat.Units
 Mathlib.Algebra.Group.Opposite
 Mathlib.Algebra.Group.Pi.Basic
+Mathlib.Algebra.Group.Pi.Lemmas
 Mathlib.Algebra.Group.Prod
 Mathlib.Algebra.Group.Semiconj.Basic
 Mathlib.Algebra.Group.Semiconj.Defs
 Mathlib.Algebra.Group.Semiconj.Units
+Mathlib.Algebra.Group.Submonoid.Basic
+Mathlib.Algebra.Group.Submonoid.BigOperators
+Mathlib.Algebra.Group.Submonoid.Defs
+Mathlib.Algebra.Group.Subsemigroup.Basic
+Mathlib.Algebra.Group.Subsemigroup.Defs
+Mathlib.Algebra.Group.Support
 Mathlib.Algebra.Group.Torsion
 Mathlib.Algebra.Group.TypeTags.Basic
 Mathlib.Algebra.Group.TypeTags.Hom
@@ -192,6 +213,8 @@ Mathlib.Algebra.Group.Units.Defs
 Mathlib.Algebra.Group.Units.Equiv
 Mathlib.Algebra.Group.Units.Hom
 Mathlib.Algebra.Group.WithOne.Defs
+Mathlib.Algebra.GroupWithZero.Action.Defs
+Mathlib.Algebra.GroupWithZero.Action.Units
 Mathlib.Algebra.GroupWithZero.Associated
 Mathlib.Algebra.GroupWithZero.Basic
 Mathlib.Algebra.GroupWithZero.Commute
@@ -204,13 +227,20 @@ Mathlib.Algebra.GroupWithZero.Invertible
 Mathlib.Algebra.GroupWithZero.Nat
 Mathlib.Algebra.GroupWithZero.NeZero
 Mathlib.Algebra.GroupWithZero.Opposite
+Mathlib.Algebra.GroupWithZero.Pi
 Mathlib.Algebra.GroupWithZero.Semiconj
 Mathlib.Algebra.GroupWithZero.Units.Basic
 Mathlib.Algebra.GroupWithZero.Units.Lemmas
 Mathlib.Algebra.GroupWithZero.WithZero
+Mathlib.Algebra.Module.Defs
+Mathlib.Algebra.Module.End
+Mathlib.Algebra.Module.NatInt
 Mathlib.Algebra.NeZero
+Mathlib.Algebra.NoZeroSMulDivisors.Basic
+Mathlib.Algebra.NoZeroSMulDivisors.Defs
 Mathlib.Algebra.Notation
 Mathlib.Algebra.Notation.Defs
+Mathlib.Algebra.Notation.Lemmas
 Mathlib.Algebra.Notation.Pi.Basic
 Mathlib.Algebra.Notation.Pi.Defs
 Mathlib.Algebra.Notation.Prod
@@ -226,6 +256,7 @@ Mathlib.Algebra.Order.Field.Defs
 Mathlib.Algebra.Order.Field.Rat
 Mathlib.Algebra.Order.Group.Abs
 Mathlib.Algebra.Order.Group.Defs
+Mathlib.Algebra.Order.Group.Finset
 Mathlib.Algebra.Order.Group.Int
 Mathlib.Algebra.Order.Group.Lattice
 Mathlib.Algebra.Order.Group.Multiset
@@ -236,6 +267,7 @@ Mathlib.Algebra.Order.Group.Synonym
 Mathlib.Algebra.Order.Group.Unbundled.Abs
 Mathlib.Algebra.Order.Group.Unbundled.Basic
 Mathlib.Algebra.Order.Group.Unbundled.Int
+Mathlib.Algebra.Order.GroupWithZero.Action.Synonym
 Mathlib.Algebra.Order.GroupWithZero.Canonical
 Mathlib.Algebra.Order.GroupWithZero.Synonym
 Mathlib.Algebra.Order.GroupWithZero.Unbundled.Basic
@@ -245,6 +277,7 @@ Mathlib.Algebra.Order.Interval.Finset.Ba
 Mathlib.Algebra.Order.Interval.Finset.SuccPred
 Mathlib.Algebra.Order.Interval.Set.Monoid
 Mathlib.Algebra.Order.Invertible
+Mathlib.Algebra.Order.Module.Defs
 Mathlib.Algebra.Order.Monoid.Basic
 Mathlib.Algebra.Order.Monoid.Canonical.Defs
 Mathlib.Algebra.Order.Monoid.Defs
@@ -265,6 +298,7 @@ Mathlib.Algebra.Order.Nonneg.Basic
 Mathlib.Algebra.Order.Nonneg.Field
 Mathlib.Algebra.Order.Nonneg.Lattice
 Mathlib.Algebra.Order.Nonneg.Ring
+Mathlib.Algebra.Order.Pi
 Mathlib.Algebra.Order.Positive.Ring
 Mathlib.Algebra.Order.Ring.Basic
 Mathlib.Algebra.Order.Ring.Canonical
@@ -289,8 +323,10 @@ Mathlib.Algebra.Prime.Lemmas
 Mathlib.Algebra.Regular.Defs
 Mathlib.Algebra.Ring.Basic
 Mathlib.Algebra.Ring.Commute
+Mathlib.Algebra.Ring.CompTypeclasses
 Mathlib.Algebra.Ring.Defs
 Mathlib.Algebra.Ring.Divisibility.Basic
+Mathlib.Algebra.Ring.Equiv
 Mathlib.Algebra.Ring.GeomSum
 Mathlib.Algebra.Ring.GrindInstances
 Mathlib.Algebra.Ring.Hom.Defs
@@ -301,18 +337,22 @@ Mathlib.Algebra.Ring.Invertible
 Mathlib.Algebra.Ring.Nat
 Mathlib.Algebra.Ring.Opposite
 Mathlib.Algebra.Ring.Parity
+Mathlib.Algebra.Ring.Pi
 Mathlib.Algebra.Ring.Rat
 Mathlib.Algebra.Ring.Semiconj
 Mathlib.Algebra.Ring.Units
+Mathlib.Control.Applicative
 Mathlib.Control.Basic
 Mathlib.Control.Combinators
 Mathlib.Control.EquivFunctor
 Mathlib.Control.Functor
+Mathlib.Control.Traversable.Basic
 Mathlib.Control.ULift
 Mathlib.Data.Array.Defs
 Mathlib.Data.Bool.Basic
 Mathlib.Data.Bool.Set
 Mathlib.Data.Bracket
+Mathlib.Data.Countable.Defs
 Mathlib.Data.ENat.Basic
 Mathlib.Data.ENat.Defs
 Mathlib.Data.Fin.Basic
@@ -320,6 +360,7 @@ Mathlib.Data.Fin.Embedding
 Mathlib.Data.Fin.Rev
 Mathlib.Data.Fin.Tuple.Basic
 Mathlib.Data.Finite.Defs
+Mathlib.Data.Finite.Sigma
 Mathlib.Data.Finset.Attach
 Mathlib.Data.Finset.Attr
 Mathlib.Data.Finset.Basic
@@ -337,8 +378,10 @@ Mathlib.Data.Finset.Insert
 Mathlib.Data.Finset.Lattice.Basic
 Mathlib.Data.Finset.Lattice.Fold
 Mathlib.Data.Finset.Lattice.Lemmas
+Mathlib.Data.Finset.Lattice.Prod
 Mathlib.Data.Finset.Lattice.Union
 Mathlib.Data.Finset.Max
+Mathlib.Data.Finset.NoncommProd
 Mathlib.Data.Finset.Option
 Mathlib.Data.Finset.Pi
 Mathlib.Data.Finset.Piecewise
@@ -351,6 +394,14 @@ Mathlib.Data.Finset.Sigma
 Mathlib.Data.Finset.Sum
 Mathlib.Data.Finset.SymmDiff
 Mathlib.Data.Finset.Union
+Mathlib.Data.Finsupp.Basic
+Mathlib.Data.Finsupp.Defs
+Mathlib.Data.Finsupp.Ext
+Mathlib.Data.Finsupp.Indicator
+Mathlib.Data.Finsupp.Multiset
+Mathlib.Data.Finsupp.Order
+Mathlib.Data.Finsupp.SMulWithZero
+Mathlib.Data.Finsupp.Single
 Mathlib.Data.Fintype.Basic
 Mathlib.Data.Fintype.Card
 Mathlib.Data.Fintype.Defs
@@ -359,6 +410,7 @@ Mathlib.Data.Fintype.OfMap
 Mathlib.Data.Fintype.Pi
 Mathlib.Data.Fintype.Powerset
 Mathlib.Data.Fintype.Sets
+Mathlib.Data.Fintype.Sigma
 Mathlib.Data.FunLike.Basic
 Mathlib.Data.FunLike.Embedding
 Mathlib.Data.FunLike.Equiv
@@ -400,9 +452,11 @@ Mathlib.Data.List.Pairwise
 Mathlib.Data.List.Perm.Basic
 Mathlib.Data.List.Perm.Lattice
 Mathlib.Data.List.Perm.Subperm
+Mathlib.Data.List.Prime
 Mathlib.Data.List.ProdSigma
 Mathlib.Data.List.Range
 Mathlib.Data.List.Rotate
+Mathlib.Data.List.Scan
 Mathlib.Data.List.Sort
 Mathlib.Data.List.Sublists
 Mathlib.Data.List.TakeDrop
@@ -443,13 +497,20 @@ Mathlib.Data.Nat.Choose.Basic
 Mathlib.Data.Nat.Digits.Defs
 Mathlib.Data.Nat.Digits.Lemmas
 Mathlib.Data.Nat.Factorial.Basic
+Mathlib.Data.Nat.Factorization.Basic
+Mathlib.Data.Nat.Factorization.Defs
+Mathlib.Data.Nat.Factorization.Multiplicity
+Mathlib.Data.Nat.Factors
 Mathlib.Data.Nat.Find
 Mathlib.Data.Nat.GCD.Basic
 Mathlib.Data.Nat.Init
 Mathlib.Data.Nat.Log
 Mathlib.Data.Nat.ModEq
 Mathlib.Data.Nat.Notation
+Mathlib.Data.Nat.Prime.Basic
 Mathlib.Data.Nat.Prime.Defs
+Mathlib.Data.Nat.Prime.Infinite
+Mathlib.Data.Nat.PrimeFin
 Mathlib.Data.Nat.Set
 Mathlib.Data.Nat.Sqrt
 Mathlib.Data.Nat.SuccPred
@@ -464,6 +525,7 @@ Mathlib.Data.PNat.Notation
 Mathlib.Data.Prod.Basic
 Mathlib.Data.Prod.PProd
 Mathlib.Data.Quot
+Mathlib.Data.Rat.BigOperators
 Mathlib.Data.Rat.Cast.CharZero
 Mathlib.Data.Rat.Cast.Defs
 Mathlib.Data.Rat.Cast.Lemmas
@@ -478,6 +540,9 @@ Mathlib.Data.Set.CoeSort
 Mathlib.Data.Set.Defs
 Mathlib.Data.Set.Disjoint
 Mathlib.Data.Set.Finite.Basic
+Mathlib.Data.Set.Finite.Lattice
+Mathlib.Data.Set.Finite.Powerset
+Mathlib.Data.Set.Finite.Range
 Mathlib.Data.Set.Function
 Mathlib.Data.Set.Image
 Mathlib.Data.Set.Inclusion
@@ -497,12 +562,16 @@ Mathlib.Data.Set.Sigma
 Mathlib.Data.Set.Subsingleton
 Mathlib.Data.Set.SymmDiff
 Mathlib.Data.SetLike.Basic
+Mathlib.Data.Setoid.Basic
 Mathlib.Data.Sigma.Basic
 Mathlib.Data.String.Defs
 Mathlib.Data.Subtype
 Mathlib.Data.Sum.Basic
+Mathlib.Data.Sym.Basic
 Mathlib.Data.Tree.Basic
 Mathlib.Data.ULift
+Mathlib.Data.Vector.Basic
+Mathlib.Data.Vector.Defs
 Mathlib.Init
 Mathlib.Lean.Elab.Tactic.Basic
 Mathlib.Lean.Elab.Term
@@ -547,6 +616,7 @@ Mathlib.Logic.Pairwise
 Mathlib.Logic.Relation
 Mathlib.Logic.Relator
 Mathlib.Logic.Unique
+Mathlib.NumberTheory.Padics.PadicVal.Defs
 Mathlib.Order.Antichain
 Mathlib.Order.Antisymmetrization
 Mathlib.Order.Basic
@@ -610,6 +680,7 @@ Mathlib.Order.Nat
 Mathlib.Order.Notation
 Mathlib.Order.Preorder.Chain
 Mathlib.Order.Preorder.Finite
+Mathlib.Order.Preorder.Finsupp
 Mathlib.Order.PropInstances
 Mathlib.Order.RelClasses
 Mathlib.Order.RelIso.Basic
@@ -628,6 +699,7 @@ Mathlib.RingTheory.Multiplicity
 Mathlib.Tactic.AdaptationNote
 Mathlib.Tactic.ApplyAt
 Mathlib.Tactic.ApplyCongr
+Mathlib.Tactic.ApplyFun
 Mathlib.Tactic.ApplyWith
 Mathlib.Tactic.Attr.Core
 Mathlib.Tactic.Attr.Register
```

**Comment by YaelDillies** [comment]
Okay it looks like most of the issues come from `Data.Finsupp.Order` being a bag-grab of imports. That can be fixed later.

maintainer merge

**Comment by bryangingechen** [comment]
Thanks!
bors r+
